US06492400B1
Part A: Preparation of N-cyano-N′-3-methoxyphenylcarbamimidic acid, phenyl ester
m-Anisidine (4.56 mL, 4.06 mmol, 1 eq.), and diphenylcyanocarbonimidate (967 mg, 4.06 mmol, 1 eq.) were mixed and refluxed in acetonitrile under N2 for 1 hour. Solids precipitated. The reaction was worked up by filtering off the solids. Obtained 580 mg as product. M.P.=170.0-171.0° C. NMR (300 MHz, DMSO-d6) δ8.70-8.50 (m, 1H); 7.43 (t, 2H, J=7 Hz); 7.40-7.20 (m, 2H); 7.14 (d, 2H, J=7 Hz); 7.00-6.80 (m, 2H); 6.80-6.70 (m, 1H); 3.80 (s, 3H).

reactant | m-Anisidine | 4.06 mmol, 4.56 mL, 1 eq. | COC1=CC(=CC=C1)N | C7H9NO
reactant | diphenylcyanocarbonimidate | 4.06 mmol, 967 mg, 1 eq. | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-cyano-N′-3-methoxyphenylcarbamimidic acid, phenyl ester | C(#N)NC(OC1=CC=CC=C1)=NC1=CC(=CC=C1)OC | C15H13N3O2
